US07432289B2
5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide (53 mg, 0.189 mmol) and 4-methoxy-3-phenylbenzoic acid (129 mg, 0.57mmol) were mixed in THF (5 ml) and the mixture shaken in a varian tube for 15 min at room temperature. Carbodiimde resin (500 mg) was added and shaking continued for 18 h. The solution was filtered off and concentrated under vacuum. The residue was chromatographed on a silica gel flash column eluting with ethyl acetate/hexane (1:2) and the solvent evaporated under vacuum to give N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-4-methoxy-3-phenylbenzamide (45 mg). NMR; δH CDCl3 7.90, (1H, dd), 7.82-7.79,(4H, m), 7.58,(1H, dd), 7.53-7.33,(5H, m), 7.27-7.25,(1H, m), 7.05,(1H, d), 6.25,(1H, t), 3.87,(3H, s), 3.34,(2H, m), 2.22,(3H, s), 1.08,(1H, m), 0.57,(2H, m), 0.29,(2H, m). LCMS: retention time 3.78 min, MH+491.

reactant | 5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | 0.189 mmol, 53 mg | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 4-methoxy-3-phenylbenzoic acid | 0.57mmol, 129 mg | COC1=C(C=C(C(=O)O)C=C1)C1=CC=CC=C1 | C14H12O3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-4-methoxy-3-phenylbenzamide | 45 mg | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=C(C=C1)OC)C1=CC=CC=C1)=O | C32H30N2O3
